US07666888B2
(4-Fluorophenyl){1-[(5-methyl-3-phenylisoxazol-4-yl)carbonyl]piperidin-4-yl}methanone
5-Methyl-3-phenylisooxazole-4-carboxylic acid (40 mg, 0.197 mmol), 4-(4-Fluorobenzoyl)piperidine hydrochloride (31.4 mg, 0.151 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (37.7 mg, 0.197 mmol) and triethylamine (59.8 mg, 0.591 mmol) were mixed in dichloromethane (2 ml) and stirred at room temperature over night. Solvent was evaporated in vacuo, and the residue was taken up in methanol (1 mL), filtered and purified by preparative chromatography. The fractions were partitioned between NaHCO3 (sat) and ethylacetate. The organic layer was washed with water and concentrated in vacuo to afford the title compound. HRMS (ESI, pos. ion) m/z calcd for C23H21FN2O3: 392.1536, found 392.1542.

reactant | 5-Methyl-3-phenylisooxazole-4-carboxylic acid | 0.197 mmol, 40 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | 4-(4-Fluorobenzoyl)piperidine hydrochloride | 0.151 mmol, 31.4 mg | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.197 mmol, 37.7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.591 mmol, 59.8 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (4-Fluorophenyl){1-[(5-methyl-3-phenylisoxazol-4-yl)carbonyl]piperidin-4-yl}methanone | FC1=CC=C(C=C1)C(=O)C1CCN(CC1)C(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C23H21FN2O3
